US04279982
To 6.2 g (0.02 mol) of trichloroacetic acid anhydride was added under stirring 3.9 g (0.02 mol) of 3,4-dimethoxybenzoic acid hydrazide prepared in the above step followed by further stirring for 30 minutes and then after adding thereto 15 g (0.1 mol) of phosphorus oxychloride, the resultant mixture was refluxed for 3 hours with stirring. The reaction mixture was cooled and then added to 300 g of broken ice. The precipitates formed were collected by filtration, washed with water, dried, and recrystallized from ethyl acetate to provide 5.0 g of 2-trichloromethyl-5-(3',4'-dimethoxyphenyl)-1,3,4-oxadiazole. The melting point was 171° to 173° C. and the yield was 77%.

reactant | trichloroacetic acid anhydride | 0.02 mol, 6.2 g | ClC(C(=O)OC(C(Cl)(Cl)Cl)=O)(Cl)Cl | C4Cl6O3
reactant | 3,4-dimethoxybenzoic acid hydrazide | 0.02 mol, 3.9 g | COC=1C=C(C(=O)NN)C=CC1OC | C9H12N2O3
reactant | phosphorus oxychloride | 0.1 mol, 15 g | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-trichloromethyl-5-(3',4'-dimethoxyphenyl)-1,3,4-oxadiazole | 5.0 g, yield was 77% | ClC(C=1OC(=NN1)C1=CC(=C(C=C1)OC)OC)(Cl)Cl | C11H9Cl3N2O3
